US08383644B2
To a solution of 3′-hydroxyacetophenone (19 g) in DMF (400 mL) was added K2CO3 (38.5 g) and the mixture was stirred for 3 hours at room temperature. 3,4-Dichlorobenzyl chloride (32.7 g) and potassium iodide (1.16 g) were added to the reaction mixture and stirred for 48 hours. After completion of the reaction, the mixture was poured into ice and water mixture and stirred for 15 minutes, solid was filtered and washed with water and hexanes. Solid was dissolved in DCM and precipitated by adding hexanes to get pure 1-[3-(3,4-dichloro-benzyloxy)-phenyl]-ethanone (30 g) 1H NMR (400 MHz, CDCl3) 7.53-7.60 (m, 3H), 7.46 (d, 1H), 7.39 (t, 1H), 7.25-7.30 (m, 1H), 7.14-7.19 (m, 1H), 5.07 (s, 2H), 2.60 (s, 3H).

reactant | 3′-hydroxyacetophenone | 19 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | K2CO3 | 38.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-Dichlorobenzyl chloride | 32.7 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | water | O | H2O
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 1.16 g | [I-].[K+]
product | 1-[3-(3,4-dichloro-benzyloxy)-phenyl]-ethanone | 30 g | ClC=1C=C(COC=2C=C(C=CC2)C(C)=O)C=CC1Cl | C15H12Cl2O2
